US07217724B2
A solution of methyl (R)-(pyridin-3-yl)oxirane (1.17 g, 9.7 mmol) and methyl (R)-3-(2-aminopropyl)-1H-indole-7-carboxylate (1.50 g, 6.5 mmol) in methanol (10 mL) is stirred at 100° C. for 2 hours under sealed conditions, and the mixture is cooled and concentrated. The residue is dissolved in N,N-dimethylformamide (20 mL), and thereto are added imidazole (1.70 g, 25 mmol) and 4-dimethylaminopyridine (61 mg, 0.5 mmol) and triethylsilyl chloride (3.25 mL, 19.4 mmol). The mixture is stirred at room temperature for 3 hours, and thereto are added ethyl acetate. The mixture is washed with a saturated aqueous sodium hydrogen carbonate solution, water, and a saturated brine, dried over sodium sulfate, and concentrated. The residue is purified by silica gel column chromatography (methanol/chloroform=1/50) to give the desired methyl 3-[(2R)-2-(2-pyridin-3-yl-(2 R)-2-(triethylsilyloxy)ethyl-amino)propyl]-1H-indole-7-carboxylate (0.74 g, yield: 24%).

reactant | methyl (R)-(pyridin-3-yl)oxirane | 9.7 mmol, 1.17 g | C[C@@]1(OC1)C=1C=NC=CC1 | C8H9NO
reactant | methyl (R)-3-(2-aminopropyl)-1H-indole-7-carboxylate | 6.5 mmol, 1.50 g | N[C@@H](CC1=CNC2=C(C=CC=C12)C(=O)OC)C | C13H16N2O2
reactant | imidazole | 25 mmol, 1.70 g | N1C=NC=C1 | C3H4N2
reactant | triethylsilyl chloride | 19.4 mmol, 3.25 mL | C(C)[Si](CC)(CC)Cl | C6H15ClSi
solvent | methanol | 10 mL | CO | CH4O
catalyst | 4-dimethylaminopyridine | 0.5 mmol, 61 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | methyl 3-[(2R)-2-(2-pyridin-3-yl-(2 R)-2-(triethylsilyloxy)ethyl-amino)propyl]-1H-indole-7-carboxylate | 0.74 g, yield: 24% | N1=CC(=CC=C1)[C@H](CN[C@@H](CC1=CNC2=C(C=CC=C12)C(=O)OC)C)O[Si](CC)(CC)CC | C26H37N3O3Si
